US05514691
N-(4-Bromo-3-methyl-5-isoxazolyl)-4-toluenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 4-toluenesulfonyl chloride according to the procedures described in Example 1b. The crude product was purified by recrystallization from ethyl acetate/hexanes to give off-white crystals, m.p. 169°-172° C., yield 69%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 4-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-4-toluenesulfonamide | yield 69% | BrC=1C(=NOC1NS(=O)(=O)C1=CC=C(C=C1)C)C | C11H11BrN2O3S
